US06150373
A mixture of 160 mg (0.3 mmol) of 3-(2-bromophenyl)-3,4-dihydro-7-methanesulfonyl-1-(1-naphthyl)pyrimido[4,5-d]pyrimidin-2(1H)-one and 200 μl (2.2 mmol) of aniline was heated at 120° C. for 2 hours. The residue was partitioned between ethyl acetate (10 ml) and 2M hydrochloric acid (10 ml) and the ethyl acetate layer separated then washed with saturated aqueous sodium bicarbonate (10 ml), dried over magnesium sulfate, filtered and evaporated to give 100 mg (67%) of 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-(1-naphthyl)pyrimido[4,5-d]pyrimidin-2(1H)-one as an orange solid of melting point 120-125° C. [Mass spectrum (ESI) MH+ =522].

reactant | 3-(2-bromophenyl)-3,4-dihydro-7-methanesulfonyl-1-(1-naphthyl)pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.3 mmol, 160 mg | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC=CC2=CC=CC=C12)=O | C23H17BrN4O3S
reactant | aniline | 2.2 mmol, 200 μl | NC1=CC=CC=C1 | C6H7N
product | 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-(1-naphthyl)pyrimido[4,5-d]pyrimidin-2(1H)-one | 100 mg, 67% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)C2=CC=CC1=CC=CC=C21 | C28H20BrN5O
